US07262185B2
To 2-chloro-4-nitrobenzenethiol (4.0 g) was added acetic acid (60 ml), and to this solution was added reduced iron (21 g), and the mixture was stirred at room temperature for 3 hours. The mixture was filtered with Celite, and washed with ethyl acetate. The solvent was removed under reduced pressure, and the obtained residue was purified by silica gel column chromatography, to give 4-amino-2-chlorobenzenethiol (2.74 g).

reactant | 2-chloro-4-nitrobenzenethiol | 4.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])S | C6H4ClNO2S
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4-amino-2-chlorobenzenethiol | 2.74 g | NC1=CC(=C(C=C1)S)Cl | C6H6ClNS
